US05643950
5-{2-[4-(3,3,3-Triphenylpropoxy)phenyl]ethyl}-1H-tetrazole.
To 3,3,3-triphenylpropanol (8.70 mmol), 3-(4-hydroxyphenyl)propionitrile (9.40 mmol) and triphenylphosphine (2.42 g, 9.23 mmol) in dry THF (25 mL) under a nitrogen atmosphere at room temperature, was added dropwise DEAD (1.50 mL, 9.52 mmol) in dry THF (20 mL) over approximately 30 minutes. The reaction was heated to reflux overnight. After cooling, the THF was evaporated and the residue chromatographed on a silica column, with 15-20% EtOAc/hexanes. White solid, mp=98°-100° C. (ether), 60% yield. 1H NMR δ 7.18-7.35 (m, 15H), 7.06 (d, J=8.6 Hz, 2H), 6.67 (d, J=8.6 Hz, 2H), 3.72 (t, J=7.8 Hz, 2H), 3.13 (t, J=7.8 Hz, 2H), 2.85 (t, J=7.3 Hz, 2H), 2.54 (t, J=7.3 Hz, 2H). IR 2243, 1540 cm-1. MS 418 (MH+), 243. Anal. calcd. for C30H27NO: C, 86.30; H, 6.52; N, 3.35. Found: C, 86.07; H, 6.39; N, 3.24. To a solution of trimethyl aluminum (1M in hexanes, 0.57 mL), in toluene (3 mL) at ~2° C., was added azidotrimethylsilane (0.569 mmol). A solution of nitrile (0.474 mmol) in toluene (2 mL) was slowly added. The reaction was stirred at 80° C. for 72 h. The cooled (0° C.) reaction was added dropwise to HCl (6M, 10 mL) and EtOAc (10 mL). The resulting mixture was extracted with EtOAc (2×50 mL). The combined organic layers were dried (MgSO4), filtered and evaporated. The crude material was triturated with dichloromethane to remove unreacted starting nitrile leaving behind the title compound as a hydrate, a white solid (mp=193°-195° C., 30% yield). 1H NMR (DMSO-d6) δ 7.19-7.35 (m, 15H), 7.02 (d, J=8.5 Hz, 2H), 6.58 (d, J=8.5 Hz, 2H), 3.60 (t, J=7.4 Hz, 2H), 3.04-3.12 (m, 4H), 2.91 (t, J=7.6 Hz, 2H). IR 3300-3450 (br), 1586, 1511 cm-1. MS 461 (MH+), 243. Anal. calcd. for C30H28N4O.0.25H2O: C, 77.48; H, 6.18; N, 12.05. Found: C, 77.18; H, 5.96; N, 11.71.

reactant | 3,3,3-triphenylpropanol | 8.70 mmol | C1(=CC=CC=C1)C(CCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H20O
reactant | 3-(4-hydroxyphenyl)propionitrile | 9.40 mmol | OC1=CC=C(C=C1)CCC#N | C9H9NO
reactant | triphenylphosphine | 9.23 mmol, 2.42 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 9.52 mmol, 1.50 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | trimethyl aluminum | 1M, 0.57 mL | C[Al](C)C
reactant | azidotrimethylsilane | 0.569 mmol | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | HCl | 6M, 10 mL | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
product | 5-{2-[4-(3,3,3-Triphenylpropoxy)phenyl]ethyl}-1H-tetrazole | 30% yield | C1(=CC=CC=C1)C(CCOC1=CC=C(C=C1)CCC1=NN=NN1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H28N4O
